US06008220
4-Oxo-4-[4-(4-phenyl-piperidin-1-yl)-phenyl]-butyric acid
A stirred mixture of 4-phenyl-piperidine (10.4 g, 0.064 mol), 3-(4-fluorobenzoyl)-propionic acid (12.1 g, 0.062 mol), and potassium carbonate (17.5 g, 0.13 mol) in DMSO (15 mL) was heated under an atmosphere of nitrogen at 120° C. for 18 hours. The mixture was allowed to cool, diluted with water (100 mL), and brought to pH 2 dropwise with 1 M HCl. The resulting solid was filtered, washed with water, and dried in vacuo to yield a pale orange solid as the title compound (11.2 g, %C,H,N found: 74.54, 6.98, 4.07).

reactant | 4-phenyl-piperidine | 0.064 mol, 10.4 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | 3-(4-fluorobenzoyl)-propionic acid | 0.062 mol, 12.1 g | FC1=CC=C(C(=O)CCC(=O)O)C=C1 | C10H9FO3
reactant | potassium carbonate | 0.13 mol, 17.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1 M | Cl | ClH
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | water | 100 mL | O | H2O
product | 4-Oxo-4-[4-(4-phenyl-piperidin-1-yl)-phenyl]-butyric acid | 11.2 g | O=C(CCC(=O)O)C1=CC=C(C=C1)N1CCC(CC1)C1=CC=CC=C1 | C21H23NO3
